US08232277B2
The N′-methyl-N-2-chloroethylpiperazine dihydrochloride (10.0 g, 45.4 mmol) was added slowly to a mixture of 50% aqueous potassium carbonate (200 mL) and ether (200 mL) and the mixture was stirred for 30 min., layers were separated, aqueous layer extracted with ether ( 2×200 mL). Combined organic extracts were dried on anhydrous sodium sulfate and concentrated to give N′-methyl-N-2-chloroethylpiperazine (6.2 g).

reactant | N′-methyl-N-2-chloroethylpiperazine dihydrochloride | 45.4 mmol, 10.0 g | Cl.Cl.CN1CCN(CC1)CCCl
reactant | potassium carbonate | 200 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 200 mL | CCOCC | C4H10O
product | N′-methyl-N-2-chloroethylpiperazine | 6.2 g | CN1CCN(CC1)CCCl | C7H15ClN2
